US05057524
4-[Bis(4-fluorophenyl)hydroxymethyl]-N-phenyl-1-piperidinepropanamide
A mixture of 2.0 g (0.007 mole) of α,α-bis(4-fluorophenyl)-4-piperidinemethanol, 2.6 g (0.014 mole) of 3-chloro-N-phenylpropanamide, 8.5 g (0.080 mole) of anhydrous sodium carbonate and 0.3 g (0.002 mole) of potassium iodide in 50 ml of N,N-dimethylformamide was heated on a steam bath for 16 hours. The mixture was poured into 500 ml of water and extracted twice with 250 ml portions of ethyl acetate. The combined extracts were washed with water and brine, dried (MgSO4) and concentrated under reduced pressure to give an off-white solid. The solid was recrystallized from methanol/2-propanol to yield 1.9 g (59%) of white solid, mp 190°-192° C.

reactant | α,α-bis(4-fluorophenyl)-4-piperidinemethanol | 0.007 mole, 2.0 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 3-chloro-N-phenylpropanamide | 0.014 mole, 2.6 g | ClCCC(=O)NC1=CC=CC=C1 | C9H10ClNO
reactant | sodium carbonate | 0.080 mole, 8.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.002 mole, 0.3 g | [I-].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | 4-[Bis(4-fluorophenyl)hydroxymethyl]-N-phenyl-1-piperidinepropanamide | 1.9 g, 59% | FC1=CC=C(C=C1)C(C1CCN(CC1)CCC(=O)NC1=CC=CC=C1)(O)C1=CC=C(C=C1)F | C27H28F2N2O2
